US06667314B2
4,4-Difluorocyclohexanecarbonyl chloride
4,4-Difluorocyclohexanecarboxylic acid (118.2 g, 0.72 mol) was dissolved in toluene (296 ml). To the clear solution was added thionyl chloride (261 ml, 3.6 mol) and the resultant solution was heated under reflux for 1.5 hours. A sample was taken and concentrated and 1H-NMR indicated complete conversion to the title compound. The reaction was cooled to room temperature and the thionyl chloride was removed under reduced pressure and replaced with toluene to give the title compound as a toluene concentrate at a total volume of 591 ml.

reactant | 4,4-Difluorocyclohexanecarboxylic acid | 0.72 mol, 118.2 g | FC1(CCC(CC1)C(=O)O)F | C7H10F2O2
reactant | thionyl chloride | 3.6 mol, 261 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 296 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4-Difluorocyclohexanecarbonyl chloride | FC1(CCC(CC1)C(=O)Cl)F | C7H9ClF2O
